US05641430
Preparation of trans-4-(4-ethoxyphenyloxymethyl)-1-(4-pentenyl )-4-silacyclohexane
The general procedure of Example 9 was repeated using 4-ethoxyphenol and 4-bromomethyl1 -(4-pentenyl)-4-phenyl-4-silacyclohexane, thereby obtaining the intended compound.

reactant | 4-ethoxyphenol | C(C)OC1=CC=C(C=C1)O | C8H10O2
reactant | 4-bromomethyl1 -(4-pentenyl)-4-phenyl-4-silacyclohexane | BrC[Si]1(CCC(CC1)CCCC=C)C1=CC=CC=C1 | C17H25BrSi
product | trans-4-(4-ethoxyphenyloxymethyl)-1-(4-pentenyl )-4-silacyclohexane | C(C)OC1=CC=C(C=C1)OC[Si@@H]1CC[C@H](CC1)CCCC=C | C19H30O2Si
